US04780528
(C) D-Alanyl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride
To 20 ml of 4N-HCl/dioxane was added 2.0 g of N-t-butoxycarbonyl-D-alanyl-α-L-aspartyl-L-phenylalanine methyl ester under ice cooling. The mixture was stirred for 1 hour. To the reaction mixture was added 150 ml of ethyl ether. Precipitated crystals were collected by filtration. Yield, 1.6 g; m.p., 205°-208° C. (decomposed).

reactant | HCl dioxane | Cl.O1CCOCC1
reactant | N-t-butoxycarbonyl-D-alanyl-α-L-aspartyl-L-phenylalanine methyl ester | 2.0 g | COC([C@@H](NC([C@@H](NC([C@H](NC(=O)OC(C)(C)C)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | C22H31N3O8
solvent | ethyl ether | 150 ml | C(C)OCC | C4H10O
product | D-Alanyl-α-L-aspartyl-L-phenylalanine methyl ester hydrochloride | Cl.COC([C@@H](NC([C@@H](NC([C@H](N)C)=O)CC(O)=O)=O)CC1=CC=CC=C1)=O | InChI=1S/C17H23N3O6.ClH/c1-10(18)15(23)19-12(9-14(21)22)16(24)20-13(17(25)26-2)8-11-6-4-3-5-7-11;/h3-7,10,12-13H,8-9,18H2,1-2H3,(H,19,23)(H,20,24)(H,21,22);1H/t10-,12+,13+;/m1./s1
